US05077287
2-isothiocyanato-3-nitro pyridine
A 10 g sample of 2-chloro-3-nitropyridine, an 8 g sample of potassium isothiocyanate, and 75 ml of acetic acid were combined and refluxed for 2 h. The reaction mixture was then cooled and poured into 400 ml of ice/H2O. The resulting solid was washed with water, redissolved in ethyl acetate and washed (4×) with water. The ethyl acetate solution was then treated with activated carbon, dried over anhydrous Na2SO4, filtered and evaporated to dryness to provide 3.72 g of the title compound. m.p.=115°-118° C.

reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium isothiocyanate | [N-]=C=S.[K+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 2-isothiocyanato-3-nitro pyridine | 3.72 g | N(=C=S)C1=NC=CC=C1[N+](=O)[O-] | C6H3N3O2S
